US05095025
Synthesis of 3-benzyl-2-[(N-cyclohexylcarbamoyl)-imino]benzothiazole (compound No. 13 in Table 1):
To a solution of 1.8 g of 3-benzyl-2-iminobenzothiazole and a catalytic amount of dibutyltin dilaurate in 30 ml of acetone was added 0.95 g of cyclohexyl isocyanate dropwise. After seven hours, the reaction mixture was poured into approximately 100 ml of water. The crystals precipitated were collected by filtering to thereby obtain 2.0 g of the objective compound.

reactant | 3-benzyl-2-iminobenzothiazole | 1.8 g | C(C1=CC=CC=C1)N1C(SC2=C1C=CC=C2)=N | C14H12N2S
reactant | dibutyltin dilaurate | C(CCCCCCCCCCC)(=O)[O-].C(CCCCCCCCCCC)(=O)[O-].C(CCC)[Sn+2]CCCC
reactant | cyclohexyl isocyanate | 0.95 g | C1(CCCCC1)N=C=O | C7H11NO
reactant | water | approximately 100 ml | O | H2O
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 3-benzyl-2-[(N-cyclohexylcarbamoyl)-imino]benzothiazole | 2.0 g, Yield: 72% | C(C1=CC=CC=C1)N1C(SC2=C1C=CC=C2)=NC(NC2CCCCC2)=O | C21H23N3OS
